US04053470
a. p-(4-Methyl-1-piperazinyl)acetophenone.
A solution of 1120 g. of N-methylpiperazine and 755 g. of p-fluoroacetophenone in 1920 ml. of dimethyl-sulfoxide is heated at 95° for 16 hours, then evaporated at reduced pressure. The residue is poured into 8 liters of water and the solution is basified with 440 g. of 50% aqueous sodium hydroxide and cooled. The precipitate of p-(4-methyl-1-piperazinyl)acetophenone is collected by filtration, washed with water and dried; m.p. 97°-99°.

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | p-fluoroacetophenone | FC1=CC=C(C=C1)C(C)=O | C8H7FO
solvent | dimethyl-sulfoxide | CS(=O)C | C2H6OS
product | p-(4-Methyl-1-piperazinyl)acetophenone | CN1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C13H18N2O
